* C:\Users\Surya\Documents\projects\electronics\huwaei\model.asc
Vb Vbat 0 3.2
C1 N002 N001 11kF
C2 N001 Vbat 75kF
R0 Vload N002 3.2
R1 N002 N001 0.1
R2 N001 Vbat 0.3
I§Vl Vload 0 PULSE(0 300 10m 1u 1u 51s 100s)
.tran 0 200 0 10m
.backanno
.end
